US09382188B2
A) 2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl trifluoromethanesulfonate
To a solution of 2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-ol (3.34 g), triethylamine (3.04 mL) and 4-dimethylaminopyridine (133 mg) in acetonitrile (50 mL) was added trifluoromethanesulfonic acid anhydride (14.8 mL) at 0° C., and the mixture was stirred for 1 hr. To the reaction mixture was added aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (4.23 g) as a colorless oil.

reactant | 2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-ol | 3.34 g | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)O)CC(C)(C)C | C18H21FO2
reactant | triethylamine | 3.04 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic acid anhydride | 14.8 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | 4-dimethylaminopyridine | 133 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl trifluoromethanesulfonate | 4.23 g | FC(S(=O)(=O)OC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C)(F)F | C19H20F4O4S
